US04587341
B. 1,2,3,4-Tetrahydro-8-methoxyethoxyquinoline
8-Methoxyethoxyquinoline (6.48 g, 31.9 mmol) was dissolved in methanol (50 ml) and reduced on a Parr hydrogenation apparatus using PtO2 catalyst. The catalyst was removed, and the solution was taken to dryness. The dark brown oil which remained was purified on a short silica gel column using 4:1 heptane:ethyl acetate for elution. The isolated oil (1,2,3,4-tetrahydro-8-methoxyethoxyquinoline) had the following NMR spectrum: (CDCl3) δ 1.93 (quintet, 2, CH2 (beta-H)), 2.76 (tr, 2, CH2), 3.32 (tr, 2, CH2), 3.43 (s, 3, OMe), 3.72 (tr, 2, OCH2), 4.11 (tr, 2, CH2O), 4.31 (br, 1, NH), 6.57 (s, +sh, 3, Ar-3H). Anal. Calcd. for C12H17NO2 : C, 69.54; H, 8.27; N, 6.76. Found: C, 69.42; H, 8.26; N, 6.70.

reactant | 8-Methoxyethoxyquinoline | 31.9 mmol, 6.48 g | COCCOC=1C=CC=C2C=CC=NC12 | C12H13NO2
solvent | methanol | 50 ml | CO | CH4O
catalyst | PtO2 | O=[Pt]=O
product | 1,2,3,4-Tetrahydro-8-methoxyethoxyquinoline | COCCOC=1C=CC=C2CCCNC12 | C12H17NO2
